Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Numbness and abdominal tightness
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
Ms. ___ is a ___ right-handed woman with a history 
of ITP, stage 3 CKD, epilepsy, hypertension, and hyperlipidemia 
who presented with 1 week of lower back and anterior thigh pain, 
and numbness and tightness spreading from left back across the 
abdomen to the right side.

She has a history of intermittent low back pain on either side, 
precipitated by particular activities or sitting/lying down for 
too long. However ~1 week ago developed an atypical bilateral 
lower back aching pain which spread to bilateral anterolateral 
thighs. There was no shock-like radiating pain to the thighs. 
Rather, it was the same pain in her back that spread to include 
her thighs (she circumscribes the area corresponding to the L2 
dermatome). Last ___, she developed numbness in her 
left back extending from just below her shoulder blade to her 
hip. The next day, it extended around the front to about 
midline. By ___, the numbness had spread across 
midline on the front to the right abdomen and flank. On 
___, the area on her right thigh which had been painful 
started to feel similarly numb, and yesterday her left thigh 
became numb as well. 

She had seen her PCP who ordered basic labs which were normal, 
and also got an appointment with a neurologist for ___. 
However, she presents to the ED because of an increasingly 
uncomfortable band like tightness that has developed in these 
areas of her back and abdomen, which is concentrated on the left 
back, flank, and front, but also extends slightly past midline 
to the right abdomen. 

She has had no recent headaches, visual blurring/diplopia, 
fevers, rashes, big bites, weight loss/weight gain. Also, no 
weakness, gait difficulties, changes in urinary or bowel habits. 


She has a history of idiopathic thrombocytopenic purpura for 
which she was last treated with rituximab in ___. Her platelet 
counts have been stable. She also has a generalized epilepsy for 
which he takes carbamazepine (brand name only) 400 mg BID.  She 
was diagnosed at the age of ___, and has only had 2 seizures her 
entire life. 
 
Past Medical History:
Idiopathic thrombocytopenic purpura 
Chronic kidney disease, stage III
Seizure disorder
Hypertension
Hyperlipidemia 
Vulvar inclusion cyst removed in ___
 
Social History:
___
Family History:
No family history of any blood disorder; father's family with 
heart disease including father with CABG; siblings healthy.
 
Physical Exam:
Admission physical examination: 

Vitals: T:97.7  BP:162/106  HR:103  RR:22  SaO2:99%
General: Awake, cooperative, NAD.
HEENT: NC/AT. No scleral icterus noted. MMM. No lesions noted in 
oropharynx.
Neck: Supple. 
Cardiac: Well perfused. 
Pulmonary: Breathing comfortably on room air.
Abdomen: Obese. Soft, NT/ND. Normoactive bowel sounds. 
Extremities: No cyanosis, clubbing, or edema bilaterally. 
Skin: No rashes or other lesions noted.

Mental Status: 
Alert, oriented x 3. Able to relate history without difficulty. 
Attentive, able engage with details of exam and assessment. 
Language is fluent with intact comprehension. Normal prosody. 
There are no paraphasic errors. Able to read without difficulty. 
Speech is not dysarthric. Able to follow both midline and 
appendicular commands. Had good knowledge of current events. 
There is no evidence of apraxia or neglect.

Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 3mm and brisk. VFF to confrontation and no 
extinction. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing grossly intact to speech.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline and equal strength bilaterally.

Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  4+  5    5  5     5     5   5
R  5    ___   ___  4+  5    5  5     5     5   5
* Noted pain and tenderness to muscles of superior anterior 
thigh when assessing IP strength. 

Sensory: 
Circumferental decrease to pinprick (80% of normal) in left arm 
from wrist to elbow. 
Bilateral back and abdomen normal sensation to pinprick and 
temperature.
Light touch decreased (70% of normal) on left back from ~T7 to 
T12. Right back normal. Left abdomen (60% of normal), right 
abdomen (80% of normal). 
Light touch decreased in bilateral anterolateral thighs in the 
distribution of the lateral femoral cutaneous nerve.
Proprioception is intact in bilateral great toes and index 
fingers. 

DTRs:
  Bi Tri ___ Pat Ach 
L  1  Tr    0   0   0    
R  1  Tr    0   2   2  
Plantar response was flexor bilaterally.

Coordination: 
No intention tremor. No dysmetria on FNF or HKS. No 
dysdiadochokinesia. 

Gait: 
Narrow-based, normal stride and arm swing.  

Discharge physical examination: 

General physical examination:
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 
Neurologic examination:

Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

Motor: 
Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.

  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

Sensory: 
Patient reports about 25% decrease in sensation to pin prick in 
the left T4-T7 dermatome distribution compared to the right 
side.  

Reflexes:
Biceps 1 bilaterally. brachioradialis 1 bilaterally, patella 1 
bilaterally, could not elicit ankle reflex bilaterally
Plantar response was flexor bilaterally.

Coordination: 
No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

Gait: 
Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

 
Pertinent Results:
___ 08:30PM BLOOD WBC-5.5 RBC-4.14 Hgb-12.1 Hct-36.4 MCV-88 
MCH-29.2 MCHC-33.2 RDW-12.2 RDWSD-39.1 Plt ___
___ 11:15AM BLOOD ___ CRP-4.1
___ 11:15AM BLOOD TSH-1.9
___ 08:30PM BLOOD Glucose-125* UreaN-24* Creat-1.6* Na-134 
K-4.6 Cl-97 HCO3-21* AnGap-16
___ 04:55PM CEREBROSPINAL FLUID (CSF) TNC-2 RBC-7* Polys-12 
___ ___ 04:55PM CEREBROSPINAL FLUID (CSF) TotProt-71* 
Glucose-58
 
Brief Hospital Course:
Patient is a ___ year old female whom presented to the emergency 
department ___ because of abdominal tightness and numbness 
whom there was initial concern for possible demyelinating 
process versus possible Guillain-Barré syndrome given initial 
examination whom had unremarkable MRI brain, thoracic and 
cervical spine imaging and lumbar puncture.  Patient was 
reassured after negative findings and was eager to be discharged 
from the hospital.  Patient is suspected to have possible 
neuropathic pain, but we decided not to start her on medication 
as she has an upcoming neurology appointment ___.   
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. CarBAMazepine 400 mg PO BID 
2. Lisinopril 20 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Atorvastatin 20 mg PO QPM  
2.  CarBAMazepine 400 mg PO BID  
3.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Neuropathic pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted with a sensation of tightness in the abdomen 
and some paresthesias on the skin. You had an MRI of your brain 
and spinal cord which did not show any evidence of lesions. You 
also had a lumbar puncture which did not have any concerning 
findings. We feel the cause of your symptoms is possibly 
secondary to neuropathic pain. You should follow-up with Dr. 
___ at the appointment below for further management. 

It was a pleasure taking care of you, 
Your ___ Neurologists
 
Followup Instructions:
___